US07851471B2
(S)-2-hydroxymethyl-piperazine-1,4-dicarboxylic acid di-tert-butyl ester (5.66 g, 17.9 mmol) was dissolved in THF (10 mL) and cooled to 0° C. 2M LiAlH4 in THF (28.5 mL, 57.0 mmol) was added. The reaction mixture was stirred at reflux for 4 hours and then cooled to 0° C. and quenched with the drop-wise addition of 1M sodium hydroxide solution (20 mL). The reaction mixture was diluted with THF (50 mL), filtered and the filtrate was concentrated in vacuo to give 1,4-dimethyl-(S)-2-hydroxymethyl piperazine (1.44 g, 56%) as a colourless oil which was used without further purification.

reactant | (S)-2-hydroxymethyl-piperazine-1,4-dicarboxylic acid di-tert-butyl ester | 17.9 mmol, 5.66 g | C(C)(C)(C)OC(=O)N1[C@@H](CN(CC1)C(=O)OC(C)(C)C)CO | C15H28N2O5
reactant | LiAlH4 | 2M | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 57.0 mmol, 28.5 mL | C1CCOC1 | C4H8O
product | 1,4-dimethyl-(S)-2-hydroxymethyl piperazine | 1.44 g, 56% | CN1[C@@H](CN(CC1)C)CO | C7H16N2O
